US07939537B2
Step 3a: N-(4-Fluorobenzyl)-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxamide
Methyl 3-[(pivaloyl)oxy]-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxylate was dissolved in methanol. p-Fluorobenzylamine (2 eqs.) was added and the reaction was stirred and heated to 60° C. for 2 hours. A precipitate had formed and further methanol and 1 eq. of triethylamine were added. After 2 more hours at 60° C. the reaction mixture was partitioned between EtOAc and 1 M HCl. The organic phase was extracted with 0.1 M aqueous NaOH. The aqueous phase was separated and acidified with 1 M HCl. The aqueous phase was extracted with EtOAc and the organic phase was dried over Na2SO4, filtered and concentrated to dryness. The title compound was obtained as a yellow solid.

reactant | Methyl 3-[(pivaloyl)oxy]-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxylate | C(C(C)(C)C)(=O)OC1=C(N=C2N(C1=O)C=CC=C2)C(=O)OC | C15H16N2O5
reactant | p-Fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | triethylamine | 1 eq. | C(C)N(CC)CC | C6H15N
solvent | methanol | CO | CH4O
product | N-(4-Fluorobenzyl)-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidine-2-carboxamide | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)C=CC=C3)C=C1 | C16H12FN3O3
